US07351778B2
Benzyl 3-hydroxybutyrate was prepared following the procedure as described in step 1) of Preparation Example 2, except for that benzyl acetoacetate was used to replace for ethyl acetoacetate. Yield 48%.

reactant | benzyl acetoacetate | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | Benzyl 3-hydroxybutyrate | Yield 48% | OC(CC(=O)OCC1=CC=CC=C1)C | C11H14O3
